US07241745B2
N-[4-(1-diphenylphosphinyl-piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide (substance 232)
1.06 ml (5.55 mmol) diphenylphosphinic acid chloride are dissolved in 20 ml abs. THF and cooled to ca. 0° C. under moisture exclusion. 2.0 g (5.55 mmol) N-[4-(piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide dihydrochloride (substance 14 as a dihydrochloride) and 2.3 ml (16.6 mmol) TEA are suspended in 90 ml abs. THF and added dropwise under ice cooling. The mixture is stirred for four days at RT without further cooling. Subsequently the solvent is removed under vacuum and the residue is taken up in 70 ml 10% sodium hydroxide solution and extracted twice, each with 100 ml CHCl3. The combined organic phases are washed with saturated NaCl solution, dried over sodium sulfate and the solvent is removed under vacuum. The residue is pre-purified over silica gel with CHCl3/CH3OH (90/10), subsequently further purified by flash-chromatography with CHCl3/CH3OH (90/10) and crystallized from 30 ml acetic acid ethyl ester. Colorless crystals remain with a MP of 154–155° C.; yield: 1.04 g (30%).

reactant | diphenylphosphinic acid chloride | 5.55 mmol, 1.06 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | N-[4-(piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide dihydrochloride | 5.55 mmol, 2.0 g | Cl.Cl.N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | THF | C1CCOC1 | C4H8O
product | N-[4-(1-diphenylphosphinyl-piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide | C1(=CC=CC=C1)P(=O)(N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C29H34N3O2P
